US04374248
A. 5-Carbethoxy-2-(N-carbophenoxy-N-methylamino)methylthiazole
(N-Carbophenoxy-N-methylamino)thioacetamide (46.7 g; 0.21 moles) was combined with ethyl α-formylchloroacetate (30.0 g; 0.20 moles) in 270 ml of 1,2-dichloroethane and heated to reflux temperature for 2 hours. An additional amount of ethyl α-formylchloroacetate (3.0 g; 0.02 moles) was added and heating was continued for 1.5 hours. The reaction mixture was extracted with two 300 ml portions of cold 5% aqueous sodium carbonate, then washed with two 300 ml portions of water and dried over Na2SO4. Evaporation gave the product as an oil which slowly crystallized. Recrystallization from 2-propanol yielded 26 g of the title compound, mp 81°-83°.

reactant | (N-Carbophenoxy-N-methylamino)thioacetamide | 0.21 moles, 46.7 g | C(=O)(OC1=CC=CC=C1)N(C)CC(=S)N | C10H12N2O2S
reactant | ethyl α-formylchloroacetate | 0.20 moles, 30.0 g | C(=O)C(C(=O)OCC)Cl | C5H7ClO3
reactant | ethyl α-formylchloroacetate | 0.02 moles, 3.0 g | C(=O)C(C(=O)OCC)Cl | C5H7ClO3
solvent | 1,2-dichloroethane | 270 ml | ClCCCl | C2H4Cl2
product | 5-Carbethoxy-2-(N-carbophenoxy-N-methylamino)methylthiazole | C(=O)(OCC)C1=CN=C(S1)CN(C)C(=O)OC1=CC=CC=C1 | C15H16N2O4S
